US08076325B2
Step 1: 3-(3-Bromo-4-methoxy-5-methylphenyl)propanenitrile
62.8 g (358.4 mmol) of 3-(4-methoxy-5-methylphenyl)propanenitrile are dissolved in 390 mL of acetic acid. There are then added, all at once, 58.8 g (716.8 mmol/2 eq.) of sodium acetate and then, dropwise, 20.2 mL (394.2 mmol/1.1 eq.) of bromine, and stirring is carried out at ambient temperature overnight. The reaction mixture is then poured into 2 liters of water, and the aqueous phase is extracted 3 times with 500 mL of dichloromethane. The combined organic phases are washed successively with 500 mL of water, 500 mL of saturated aqueous sodium hydrogen carbonate solution and 500 mL of water, and are dried over magnesium sulphate. After concentration, the expected product is collected.

reactant | 3-(4-methoxy-5-methylphenyl)propanenitrile | 358.4 mmol, 62.8 g | COC1=CC=C(C=C1C)CCC#N | C11H13NO
reactant | sodium acetate | 716.8 mmol, 58.8 g, 2 eq. | C(C)(=O)[O-].[Na+]
reactant | bromine | 394.2 mmol, 20.2 mL, 1.1 eq. | BrBr | Br2
reactant | water | 2 liters | O | H2O
solvent | acetic acid | 390 mL | C(C)(=O)O | C2H4O2
product | 3-(3-Bromo-4-methoxy-5-methylphenyl)propanenitrile | BrC=1C=C(C=C(C1OC)C)CCC#N | C11H12BrNO
